US08431563B2
A 100 mL round-bottomed flask was charged with 2-((tetrahydro-2H-pyran-4-yl)methyl)piperazine (0.950 g, 5.16 mmol), 20 mL of CH2Cl2, triethylamine (0.790 mL, 5.67 mmol), and 2-thiophenesulfonyl chloride (0.942 mL, 5.16 mmol, Sigma-Aldrich, St. Louis, Mo.). After 15 min at room temperature, the mixture was diluted with water (50 mL) and CH2Cl2 (50 mL), the organics were separated, dried (MgSO4) and concentrated to give a dark oil. To this oil was added 50 mL of ether and 10 mL of 1N HCl in ether. The resulting white precipitate was collected by filtration to give 3-(tetrahydro-2H-pyran-4-ylmethyl)-1-(2-thiophenylsulfonyl)piperazine hydrochloride (1.45 g) as an orange solid.

reactant | 2-((tetrahydro-2H-pyran-4-yl)methyl)piperazine | 5.16 mmol, 0.950 g | O1CCC(CC1)CC1NCCNC1 | C10H20N2O
reactant | triethylamine | 5.67 mmol, 0.790 mL | C(C)N(CC)CC | C6H15N
reactant | 2-thiophenesulfonyl chloride | 5.16 mmol, 0.942 mL | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
reactant | HCl | 1N, 10 mL | Cl | ClH
solvent | water | 50 mL | O | H2O
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-(tetrahydro-2H-pyran-4-ylmethyl)-1-(2-thiophenylsulfonyl)piperazine hydrochloride | 1.45 g | Cl.O1CCC(CC1)CC1CN(CCN1)S(=O)(=O)C=1SC=CC1 | InChI=1S/C14H22N2O3S2.ClH/c17-21(18,14-2-1-9-20-14)16-6-5-15-13(11-16)10-12-3-7-19-8-4-12;/h1-2,9,12-13,15H,3-8,10-11H2;1H
